US07501424B2
Preparation of 4-methyl-3-[4-(thiazol-2-ylamino)-pyrimidin-2-ylamino]-benzoic acid
4-methyl-3-[4-(thiazol-2-ylamino)-pyrimidin-2-ylamino]-benzoic acid ethyl ester prepared in Preparation 15 was used instead of 4-(4-pyridin-3-yl-pyrimidin-2-ylamino)-benzoic acid ethyl ester according to the similar procedure to Preparation 19 to give the titled compound as yellow solid.

reactant | 4-methyl-3-[4-(thiazol-2-ylamino)-pyrimidin-2-ylamino]-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)C)NC1=NC=CC(=N1)NC=1SC=CN1)=O | C17H17N5O2S
reactant | 4-(4-pyridin-3-yl-pyrimidin-2-ylamino)-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1)=O | C18H16N4O2
product | 4-methyl-3-[4-(thiazol-2-ylamino)-pyrimidin-2-ylamino]-benzoic acid | CC1=C(C=C(C(=O)O)C=C1)NC1=NC=CC(=N1)NC=1SC=CN1 | C15H13N5O2S
